US04371604
(a) 2,3-dimethyl-6-acetyl hydroquinone
276 g (2 mole) of 2,3-dimethyl-hydroquinone were suspended in 300 ml of acetic acid and heated to 80° C. with stirring. Through the obtained solution boron trifluoride was bubbled whereby care was taken that the temperature did not exceed 100° C. The reaction mixture was stirred at 120° C. for 3.5 h and then poured into 4 l of ice-water containing 500 g of dissolved sodium acetate. This mixture was stirred for 12 h till the precipitate could be separated by suction. This precipitate was then treated with 3 l of water whereto enough sodium hydrogen carbonate was added to reach a final pH of 7.5. The precipitate was suction filtered again, washed with water till neutral and recrystallized from toluene. Yield: 230 g. Melting point: 151° C. (structure confirmed by NMR).

reactant | 2,3-dimethyl-hydroquinone | 2 mole, 276 g | CC1=C(O)C=CC(=C1C)O | C8H10O2
reactant | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethyl-6-acetyl hydroquinone | CC1=C(O)C(=CC(=C1C)O)C(C)=O | C10H12O3
